US06316482B1
To a solution of ethyl 2,3-diaminobenzoate (4.72 g) and pyridine (2.49 g) in dichloroethane (50 ml) was added chloroacetyl chloride (3.11 g) in chloroform (10 ml) at −70° C. and the reaction mixture was stood overnight. After the reaction mixture was concentrated in vacuo, the residue was diluted with ethnaol (50 ml). To the solution was added p-toluenesulfonic acid (249 mg) and the reaction mixture was refluxed for 2 hours. After the reaction mixture was concentrated in vacuo, the reside was diluted with ethyl acetate and satureated sodium hydrogen carbonate aqueous solution. The organic layer was separated and washed with brine. The solution was dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give ethyl 2-chloromethyl-1H-benzimidazole-4-carboxylate (2.98 g).

reactant | ethyl 2,3-diaminobenzoate | 4.72 g | NC1=C(C(=O)OCC)C=CC=C1N | C9H12N2O2
reactant | pyridine | 2.49 g | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 3.11 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-chloromethyl-1H-benzimidazole-4-carboxylate | 2.98 g | ClCC1=NC2=C(N1)C=CC=C2C(=O)OCC | C11H11ClN2O2
